US09290421B2
2-(2-amino-5-methylphenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (1)
To a solution of para-toluidine (14.6 g, 136 mmol) in chlorobenzene (25 mL) was added paratoluenesulphonic acid monohydrate (395 mg, 2.05 mmol). The reaction mixture was heated at 100° C. and 1,1,1,3,3,3-hexafluoroacetone sesquihydrate (41.4 g, 219 mmol) was added drop-wise over 45 min through a dropping funnel. The mixture was stirred for 5 h at 100° C. After solvent removal, the residue was dissolved in chloroform (300 mL) and placed overnight at −20° C. The crystals formed were filtered and washed with cooled chloroform to give 28.2 g of white needles (103.4 mmol, 76% yield) after drying overnight under vacuum.

reactant | para-toluidine | 136 mmol, 14.6 g | NC1=CC=C(C=C1)C | C7H9N
reactant | 1,1,1,3,3,3-hexafluoroacetone sesquihydrate | 219 mmol, 41.4 g | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
solvent | chlorobenzene | 25 mL | ClC1=CC=CC=C1 | C6H5Cl
catalyst | paratoluenesulphonic acid monohydrate | 2.05 mmol, 395 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(2-amino-5-methylphenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 103.4 mmol, 28.2 g, 76% yield | NC1=C(C=C(C=C1)C)C(C(F)(F)F)(C(F)(F)F)O | C10H9F6NO
